US04061764
Alpha-Oximino-2-Thienylacetonitrile
To a stirred solution of 2.3 g. (0.10 mole) of sodium metal dissolved in 50 ml. ethanol and cooled to 0° C. in an ice bath was added 12.3 g. (0.10 mole) of 2-thienylacetonitrile. After the addition was complete 10.3 g. (0.10 mole) of butylnitrite was added. The reaction was stirred 1 hour at 0° C. and 3 hours at room temperature before the mixture was concentrated to dryness in vacuo. The residue was washed with ether. The sodium salt of the product was dissolved in water and acidified with concentrated hydrochloric acid to a pH of 3. The solid was filtered, washed with water, dried and recrystallized from chloroform to give 6.6 g. of final product which melted at 135°-137° C.

reactant | sodium | 0.10 mole | [Na] | Na
reactant | 2-thienylacetonitrile | 0.10 mole | S1C(=CC=C1)CC#N | C6H5NS
reactant | butylnitrite | 0.10 mole | C(CCC)ON=O | C4H9NO2
solvent | ethanol | C(C)O | C2H6O
product | Alpha-Oximino-2-Thienylacetonitrile | N(O)=C(C#N)C=1SC=CC1 | C6H4N2OS
